US04168269
9,10-Dihydro-9-propyl-4H-thieno[3,4-b][1,5]benzodiazepine
A 5 g. portion of 4,9-dihydro-9-propyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in 100 ml. of dried tetrahydrofuran is added dropwise with stirring under nitrogen to a suspension of 3.1 g. of lithium aluminum hydride in 100 ml. of tetrahydrofuran. The reaction mixture is stirred for 18 hours under reflux, then cooled in an ice bath and treated under nitrogen, with stirring, with 3 ml. of water, 3 ml. of 15% sodium hydroxide and finally with 9 ml. of water. The complex is filtered and washed thoroughly with ether. The combined filtrate and washings are dried over sodium sulfate and filtered. The filtrate is concentrated to a dark blue oil. A 50 ml. portion of hexane:ether (10:1) is added and the mixture is stored in a chill room overnight. The solid is filtered, washed with hexane and dried. A second crop is obtained from the filtrate and is washed with hexane and dried. The two crops are combined, heated to solution in 100 ml. of hexane, filtered and cooled giving blue crystals which are collected, washed with hexane and dried, mp. 78°-79° C.

reactant | 4,9-dihydro-9-propyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C(CC)N1C(C=2C(NC3=C1C=CC=C3)=CSC2)=O | C14H14N2OS
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 9,10-Dihydro-9-propyl-4H-thieno[3,4-b][1,5]benzodiazepine | C(CC)N1CC=2C(NC3=C1C=CC=C3)=CSC2 | C14H16N2S
